US05648502
4-Chloro-2-thiophene Carboxylic Acid
A 300 mg (1.278 mmol) sample of 4-chloro-3-trimethylsilyl-2-thiophene carboxylic acid was dissolved in 10 mL of tetrahydrofuran with 0.3 mL of water and cooled to -5° C. (ice/brine bath). A 2.6 mL aliquot of the 1M tetrahydrofuran solution of tetra-n-butyl ammonium fluoride was slowly added to the reaction solution. After 4 hours the reaction was poured into 50 mL of 5% aqueous sodium bicarbonate. The entire reaction solution was transferred to a separatory funnel and washed with ethyl acetate (2×25 mL). The basic aqueous solution was acidified with concentrated hydrochloric acid to pH2 and then extracted with ethyl acetate (3×30 mL). The organic extract was then dried (sodium sulfate), filtered, and evaporated to 216 mg of product as a white solid. Recrystallization using hot heptane gave 85 mg of pure crystalline product, mp 138° C.

reactant | 4-chloro-3-trimethylsilyl-2-thiophene carboxylic acid | ClC=1C(=C(SC1)C(=O)O)[Si](C)(C)C | C8H11ClO2SSi
reactant | tetra-n-butyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 0.3 mL | O | H2O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 4-Chloro-2-thiophene Carboxylic Acid | 85 mg | ClC=1C=C(SC1)C(=O)O | C5H3ClO2S
